US05061793
To a solution of 0.77 g (5.0 mmol) of 6-chloropurine in 50 ml of tetrahydrofuran was added 1.31 g (5.0 mmol) of triphenylphosphine and 0.87 g (5.0 mmol) of diethyl azodicarboxylate. To this solution was added a solution of 1.99 g (5.0 mmol) of 3,5-bis(t-butyldimethylsiloxy)-1-hydroxy-2-desoxy-2,2-difluororibose in tetrahydrofuran. The reaction mixture was stirred at room temperature for approximately 60 hours and an additional 0.66 g (1.7 mmol) of 3,5-bis(t-butyldimethylsiloxy)-1-hydroxy-2-desoxy-2,2-difluororibose was added to the reaction mixture. The mixture was stirred for an additional 6 hours at room temperature. The solvent was evaporated under vacuum and the residue was stirred in a small amount of diethyl ether overnight. The precipitated solid was removed by vacuum filtration and the filtrate was concentrated under vacuum to dryness. The residue was chromatographed over 70 g of silica and eluted with chloroform. Fractions containing the major component were combined and the solvent was evaporated therefrom to provide 1.0 g of 1-(6-chloro-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose. The structure of the product was verified by NMR. Mass spec.=477 [534-(t-butyl)]

reactant | 6-chloropurine | 5.0 mmol, 0.77 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | triphenylphosphine | 5.0 mmol, 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.0 mmol, 0.87 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3,5-bis(t-butyldimethylsiloxy)-1-hydroxy-2-desoxy-2,2-difluororibose | 5.0 mmol, 1.99 g | O([Si](C)(C)C(C)(C)C)[C@@](C(C(=O)O)(F)F)(O)[C@H](O)C(O)O[Si](C)(C)C(C)(C)C | C17H36F2O7Si2
reactant | 3,5-bis(t-butyldimethylsiloxy)-1-hydroxy-2-desoxy-2,2-difluororibose | 1.7 mmol, 0.66 g | O([Si](C)(C)C(C)(C)C)[C@@](C(C(=O)O)(F)F)(O)[C@H](O)C(O)O[Si](C)(C)C(C)(C)C | C17H36F2O7Si2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(6-chloro-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose | 1.0 g | ClC1=C2N=CN(C2=NC=N1)C(=O)C([C@](O)([C@H](O)C(O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)(F)F | C22H37ClF2N4O6Si2
